Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Neosporin (neo-bac-polym)
 
Attending: ___.
 
Chief Complaint:
"My depression has been getting worse"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
History was noted from Dr. ___ consult note from  ___, and subsequent psychiatry CL 
notes
in OMR, confirmed with patient and updated as relevant:

Briefly, ___ is a ___ ___ student with h/o depression 
and
one past suicide attempt, no PMH, who represents following an
overdose/SIB via cutting in the setting of worsening depressive
symptoms.
  
On interview, patient describes a worsening of her depression
over the course of the past several months.  She initially 
states
that she has been struggling with depression "for years, as far
back as [she] can remember", but can definitively say that her
depression began in middle school.  She does not feel that her
depression has ever fully abated or remitted, but believes it 
has
been worsening in the context of her upcoming graduation.  

___ is a ___ student at ___, studying ___
___, and claims she is doing well in school, but likewise
shares that she fears graduation and her transition into the 
work
force.  Of note, she has secured a job, but worries about "what
will happen after that."  A ___, she moved to ___ 
for
graduate school in order to be close to her sister, ___, who is 
a
student here.  She planned to live with ___ but was forced to
find housing of her own after ___ divorce after which her
sister "became distant".  She grows tearful at mention of her
relationship with her sister who, of note, did visit the patient
this evening, along with their mother, who flew in from ___.  

The important people in her life include her parents and her
sisters, and states that she is closest to her mother.  Despite
this, and despite the fact that her mother and two sisters
struggle with depression, ___ is often reluctant to share 
her
feelings with her mother as she perceives herself to be a 
burden.
She denies social supports in ___, claiming that the majority
of her friends remain in ___.  

With regard to depressive symptoms, the patient endorses
difficulty falling asleep and low energy during the day as well
as changes in appetite: sometimes she has no appetite, and
sometimes, when stressed she binge eats. She believes she has
recently put on weight.  She had purchased Advil ___ with the
intention of using it as a sleep aid, but states that,
overwhelmed by her depression and fear of the future, ingested
the bottle the morning prior to her presentation.  When asked
whether this was an attempt to end her life, the patient says 
she
is unsure, but seems to believe that this was an impulsive
action.  She presently denies SI.

She superficially cut her left wrist prior to the ingestion, as
well, but claims that this was merely an attempt to relieve
stress, and states that she had not cut since ___, her first
suicide attempt.  She volunteers that she has poor coping 
skills.
She continues to enjoy running, reading, and writing, but does
not find that these activities mitigate her stress.  With regard
to stress, she finds "deadlines" anxiety-provoking, and 
describes
moments in which she experiences racing heart and difficulty
breathing, during which time she must retreat to a bathroom or
otherwise isolate herself.  These episodes typically last 10
minutes at a time, but she denies feeling a sense of impending
doom, or feeling that she will die.  ___ does express hope
for the future, endorsing a desire to work for a ___ 
___
in ___ where she had once completed an internship.  

She was reluctant to present to the hospital given a traumatic
hospitalization on an inpatient unit in ___ in ___ following
her first suicide attempt via cutting her left wrist.  Although
she declined to share the details of this admission, she states
that she was made uncomfortable by male patients on the unit who
made sexual comments.  She is assured that the unit is closely
monitored and that she can approach any number of staff should
any concerns arise.

 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
  - Prior diagnoses: Depression
  - Hospitalizations: One past admission in ___ following
suicide attempt
  - Current treaters and treatment: None; briefly saw a
psychologist in ___ following her hospitalization but has no
current treaters in ___
  - Medication and ECT trials: Patient cannot recall what
medications she tried in the past
  - Suicide attempts: At least one prior via cutting wrist
  - Self-injurious behavior: Cutting
  - Harm to others: Denies
  - Access to weapons: Denies

Past medical history: Per Dr. ___ (___), confirmed
with patient and updated as relevant:
Denies

Medications: Denies
  
Allergies: Neosporin (hives)

 
Social History:
Substance use history: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
  - Alcohol: denies (last used in undergrad)
  - Tobacco: denies
  - Other substances and IVDU: denies
Personal and Social History: ___
Family History:
Family psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Mother and two sisters struggle with depression; sisters take
medication for depression, but patient is unsure the names. 
___ aunt completed suicide.  No history
bipolar/schizophrenia as far as patient is aware.
 
Physical Exam:
VS: T 99.0 PO; BP 128 / 86; HR 108; RR 16; SpO2 97% 
General: Young well-nourished, well-developed female in NAD.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions.  Left wrist
wrapped in gauze.
Neurological:
Cranial Nerves: II-XII intact
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: Moves all four extremities spontaneously. 
Coordination: Normal on finger to nose test. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: correctly states 7 quarters in $1.75
Abstraction: apple/orange = "fruits"
Visuospatial: not assessed
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed in hospital ___ left wrist
wrapped in gauze
Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "I've been depressed" / Dysphoric, tearful, 
full
range, appropriate to situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: presently denies SI/HI/AH/VH, no evidence of
delusions or paranoia
Judgment and Insight: Limited/limited

 
Pertinent Results:
___ 01:03AM   GLUCOSE-60* UREA N-9 SODIUM-142 POTASSIUM-4.0 
CHLORIDE-107 TOTAL CO2-21* ANION GAP-18
___ 01:03AM   TSH-2.9
___ 01:03AM   ASA-NEG ACETMNPHN-NEG
___ 10:23PM URINE  HOURS-RANDOM
___ 10:23PM URINE  UCG-NEGATIVE
___ 10:23PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:23PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:23PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-300 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:23PM URINE  RBC-2 WBC-11* BACTERIA-FEW YEAST-NONE 
EPI-1
___ 10:23PM URINE  MUCOUS-RARE
___ 09:00PM   GLUCOSE-99 UREA N-10 CREAT-0.9 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-22 ANION GAP-22*
___ 09:00PM   estGFR-Using this
___ 09:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:00PM   WBC-11.8* RBC-5.10 HGB-14.5 HCT-43.7 MCV-86 
MCH-28.4 MCHC-33.2 RDW-12.9 RDWSD-40.0
___ 09:00PM   NEUTS-84.5* LYMPHS-11.0* MONOS-3.7* EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-9.96* AbsLymp-1.29 AbsMono-0.43 
AbsEos-0.01* AbsBaso-0.05
___ 09:00PM   PLT COUNT-289
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) The patient presented after taking an overdose of advil ___ 
and cutting her wrist in what she states was an intentional 
suicide attempt. She also complained of depressed mood, poor 
sleep, poor appetite, body image issues, self-hatred and 
feelings of guilt.
She had tried Lexapro for over a year about ___ years ago, which 
she stated had no effect, so here she was started on Venlafaxine 
at 37.5 mg daily on ___. 
She was also offered a trazodone PRN for sleep, which she used 
with good effect though with some drowsiness on waking up, until 
the night of ___, when she states she was able to sleep through 
the night without needing medication any longer.
Her mood improved over the course of her stay, and she stated 
she no longer felt suicidal at the time of discharge, but 
instead was future oriented and hopeful for the future. She 
additionally stated her sense of isolation had improved as she 
now realized how much her mother cared for her, and she endorsed 
learning several healthy coping skills while on the unit through 
the individual and group therapy which was offered.  

4. MEDICAL
#) The patient was offered wound care for the cut on her arm, 
which was superficial.

#) On the day of discharge, ___, the patient reported two 
episodes of diarrhea. Because of a confirmed case of norovirus 
on the unit, she was placed on GI contact precautions per 
protocol. Infection control was contacted and advised that it 
was safe for her to be discharged. She was advised regarding 
hand hygiene, not sharing food, not preparing food for herself 
while symptomatic, and cleaning her bathroom frequently with 
bleach products.  

#) The patient's TSH was checked while on the unit to rule out 
organic causes of depression and was 2.9 (within normal limits). 


5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was visible on the milieu, 
often playing games or participating in activities with other 
patients.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's mother came to visit her several times while the 
patient was on the unit. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Effexor, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
several risk factors.  Her static factors noted at that time 
include prior suicide attempt, history of emotional abuse, 
single status, and family history of suicide. Her modifiable 
risk factors included suicidal ideation with intent and plan 
prior to admission, lack of outpatient treaters, limited coping 
skills, sense of isolation, self discontinuation of 
antidepressants, and imminent socioeconomic transition.  The 
modifiable risk factors were addressed by restarting her on an 
antidepressant medication, arranging for outpatient treaters, 
providing her with individual, group, and milieu therapy 
including groups specifically to help encourage developing 
healthy coping skills. Through her mother's visits, she also 
states she realized she was less isolated than she previously 
thought. Finally, the patient is being discharged with many 
protective risk factors,  including future orientation, sense of 
responsibility to family, improved coping skills, medication 
compliance, no history of substance use disorder, and no current 
SI/HI.  Based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Venlafaxine XR 37.5 mg PO DAILY 
RX *venlafaxine 37.5 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD and persistent depressive disorder

 
Discharge Condition:
*VS:  T 97.6 BP 112/76 HR 104 RR 20 O2 98%

  Neurological:
    *tone and strength: moves all four extremities equally and
spontaneously, no focal deficits
    abnormal movements: none noted
  *Appearance: well-groomed young woman with medium-length dark
brown hair with a few white hairs wearing jeans and a black 
shirt
today
  Behavior: calm and cooperative
  *Mood and Affect: 'okay'/mood congruent, less constricted than 
on admission
  *Thought process : linear, goal-oriented, no loose 
associations
  *Thought Content: denies SI/HI/VI/AVH, no evidence of 
delusions
or paranoia

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___